US07361675B2
To 2 ml of N,N-dimethylformamide were added 295 mg of a mixture of 3-methylsulfinyl-5-(2-fluorophenyl)-1,2,4-thiadiazole and 3-methylsulfonyl-5-(2-fluorophenyl)-1,2,4-thiadiazole (integration ratio of 1H-NMR sulfonyl form:sulfinyl form=4:1) and 85 mg of 2-butyne-1-ol, to the resulting mixture was added 55 mg of sodium hydride (60% oily) with ice-cooling, and the mixture was stirred for 10 minutes, and further stirred at room temperature for 3 hours. The reaction mixture was poured into an aqueous saturated sodium chloride solution, and the mixture was extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue was subjected to silica gel column chromatography to obtain 227 mg of 5-(2-fluorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole (the compound (5) of the present invention).

reactant | 3-methylsulfinyl-5-(2-fluorophenyl)-1,2,4-thiadiazole | CS(=O)C1=NSC(=N1)C1=C(C=CC=C1)F | C9H7FN2OS2
reactant | 3-methylsulfonyl-5-(2-fluorophenyl)-1,2,4-thiadiazole | CS(=O)(=O)C1=NSC(=N1)C1=C(C=CC=C1)F | C9H7FN2O2S2
reactant | 2-butyne-1-ol | 85 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 55 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(2-fluorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole | 227 mg | FC1=C(C=CC=C1)C1=NC(=NS1)OCC#CC | C12H9FN2OS
